* Z:\mnt\design.r\spice\examples\1073-5.asc
L1 IN N001 33µ
D1 N001 OUT MBRS140
C2 OUT 0 100µ
V1 IN 0 2.8
XU1 IN IN N001 0 0 MP_01 MP_02 OUT LT1073 top=904K bot=40K
Rload OUT 0 50
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 3m startup
.lib LT1073.sub
.backanno
.end
